US05399578
(S)-N-(1-Carboxy-2-methyl-prop-1-yl)-N-methoxycarbonyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine
N-Carbomethoxy-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine benzyl ester starting from 3.21 g of N-carbomethoxy-N-[(2 '-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester and 3.50 g of tributyltin azide and subsequent flash chromatography using the system N6. Amorphous product, TLC (system N6) Rf : 0.26.

reactant | N-Carbomethoxy-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)OC)C(C)C)=O | C28H29N5O4
reactant | N-carbomethoxy-N-[(2 '-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | 3.21 g | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)OC)C(C)C)=O | C28H28N2O4
reactant | tributyltin azide | 3.50 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | (S)-N-(1-Carboxy-2-methyl-prop-1-yl)-N-methoxycarbonyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(=O)(O)[C@H](C(C)C)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)OC | C21H23N5O4
